* ============================================
* Test: write_margin.spice
* Cell: 8T_03v3
* PDK: GF180mcuD
* Author: R. Gupta
* Date: 2026-06-19
* ============================================

* -- includes --
.include /workspace/analog/tests/8T_tb.spice
.include /workspace/analog/designs/pvt.spice

* -- stimulus --
VVDD vdd 0 3.3                      ; supply
VVSS vss 0 0                        ; source
VA   a   0 3.3                      ; set Activation = HI

** Parameters
.param V1=0
.param Td=2n
.param Tr=0.1n
.param Tf=0.1n
.param PW=3n
.param PER=50n
.param NP=1

** Sources
VWBLB WBLB 0 DC 3.3
VWBL  WBL  0 DC 0
VWL   WL  0 PULSE({V1} 3.3 {Td} {Tr} {Tf} {PW} {PER} {NP})

** Initial States
.ic v(q)=3.3 v(qb)=0

** Control Section Params
.csparam V_H=3.3
.csparam V_L=0
.csparam V1={V1}
.csparam Td={Td}
.csparam Tr={Tr}
.csparam Tf={Tf}
.csparam PW={PW}
.csparam PER={PER}
.csparam NP={NP}
.csparam tran_time=0.1u

* -- verbose toggle: 1 = debug, 0 = quiet --
.csparam verbose=1

.control
save all



let WL_H = V_H
let WL_L = V_L
let max_err = 0.01
let v_trip  = V_H/2

echo
echo ==========================================
echo   WORD-LINE WRITE MARGIN  (bisection)
echo ==========================================

* =========================================================
*  ENDPOINT CHECKS  (bisection is only valid if both pass)
* =========================================================
* -- Endpoint 1: WL = VDD must FLIP --
let flip_b = 0
alter @vwl[pulse] = [ $&V1 $&V_H $&Td $&Tr $&Tf $&PW $&PER $&NP ]
tran 0.1n $&tran_time uic
let final_q = v(q)[length(v(q))-1]
if final_q le v_trip
    let flip_b = 1
    echo "  [PASS]  WL=VDD  -> flipped     (endpoint 1/2)"
else
    echo "  [FAIL]  WL=VDD  -> NOT flipped (endpoint 1/2)"
end

* -- Endpoint 2: WL = 0 must NOT flip --
let noflip_b = 0
alter @vwl[pulse] = [ $&V1 $&V_L $&Td $&Tr $&Tf $&PW $&PER $&NP ]
tran 0.1n $&tran_time uic
let final_q = v(q)[length(v(q))-1]
if final_q le v_trip
    echo "  [FAIL]  WL=0    -> flipped     (endpoint 2/2)"
else
    let noflip_b = 1
    echo "  [PASS]  WL=0    -> not flipped (endpoint 2/2)"
end

* =========================================================
*  BISECTION
* =========================================================
let bool_b = flip_b * noflip_b
if bool_b = 0
  echo
  echo "  >> ENDPOINTS FAILED - check schematic / .ic / sizing"
  echo "  >> bisection skipped (result invalid)"
  echo
else
  setplot const
  echo
  echo "  Endpoints OK - running bisection..."
  echo

  let WL_H = V_H
  let WL_L = V_L
  let WL_m = 0
  let iter = 0

  while WL_H-WL_L > max_err
    let WL_m = (WL_H + WL_L)/2
    alter @vwl[pulse] = [ 0 $&WL_m $&Td $&Tr $&Tf $&PW $&PER $&NP ]
    tran 0.1n $&tran_time uic
    let final_q = v(q)[length(v(q))-1]
    let iter = iter + 1

    if final_q < v_trip
      let WL_H = WL_m
      if $&verbose = 1
        echo "  iter $&iter : WL_m=$&WL_m  -> flip      [hi=$&WL_H lo=$&WL_L]"
      end
    else
      let WL_L = WL_m
      if $&verbose = 1
        echo "  iter $&iter : WL_m=$&WL_m  -> no-flip   [hi=$&WL_H lo=$&WL_L]"
      end
    end
  end

  let WL_crit = WL_H
  let margin  = V_H - WL_H
  echo
  echo ------------------------------------------
  echo "  iterations : $&iter"
  echo "  WL_crit    : $&WL_crit V"
  echo "  WLWM_RESULT : $&margin V"
  echo ------------------------------------------
  echo
end

write /workspace/analog/sim/8t/results/write_margin.raw all
.endc
.end